US09428509B2
2-Methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazole
A suspension of 6-bromo-2-methylbenzo[d]oxazole (1 equiv), bis(pinacolato)diboron (2 equiv), potassium acetate (3 equiv) in 1,4-dioxane was degassed with argon for 10 min. Then, 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride dichloromethane adduct (0.05 equiv) was added and the solution was further degassed with argon for 10 min. The reaction mixture was heated at 110° C. overnight. The reaction mixture was cooled to room temperature, the solvent was removed under reduced pressure and the crude product was purified by column chromatography (silica gel 100-200 mesh 0-10% ethyl acetate in n-hexane as eluent) to give the title compound. (Yield: 34%), MS (ESI) m/z 260 [M+1]1.

reactant | 6-bromo-2-methylbenzo[d]oxazole | 1 equiv | BrC1=CC2=C(N=C(O2)C)C=C1 | C8H6BrNO
reactant | bis(pinacolato)diboron | 2 equiv | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3 equiv | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride dichloromethane | 0.05 equiv | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-Methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazole | Yield: 34% | CC=1OC2=C(N1)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C14H18BNO3
